US05972975
6-(2-Hydroxyethyl)-4-methyl-2-(2,5-dimethylpyrrol-1-yl)pyridine (457 mg, 1.98 mmol) was dissolved in 5.0 mL of 95% ethanol and 2.0 mL of water was added followed by 625 mg (8.99 mmol) of hydroxylamine hydrochloride and 350 mg (5.36 mmol) of 86% potassium hydroxide. The mixture was heated in a 100° C. oil bath for 24 h, the cooled to room temperature and partitoned between 15 mL of 2 N aqueous hydrochloric acid and 30 mL of dichloromethane. The aqueous layer was made strongly basic by the addition of solid 86% potassium hydroxide and extracted with 3×30 mL of ethyl ether. The ethyl ether layers were dried (sodium sulfate), decanted, and evaporated. The residue was purified by flash column chromatography on 25 g of silica gel, eluting with 20% isopropanol in dichloromethane to give 201 mg (67% yield) of 2-amino-6-(2-hydroxyethyl)4-methylpyridine as a colorless oil which spontaneously crystallized.

reactant | 6-(2-Hydroxyethyl)-4-methyl-2-(2,5-dimethylpyrrol-1-yl)pyridine | 1.98 mmol, 457 mg | OCCC1=CC(=CC(=N1)N1C(=CC=C1C)C)C | C14H18N2O
reactant | hydroxylamine hydrochloride | 8.99 mmol, 625 mg | Cl.NO
reactant | potassium hydroxide | 5.36 mmol, 350 mg | [OH-].[K+]
reactant | hydrochloric acid | 2 N, 15 mL | Cl | ClH
solvent | ethanol | 5.0 mL | C(C)O | C2H6O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | water | 2.0 mL | O | H2O
product | 2-amino-6-(2-hydroxyethyl)4-methylpyridine | 201 mg, 67% yield | NC1=NC(=CC(=C1)C)CCO | C8H12N2O
